US05194442
7-Bromo-5-hydroxy-2,3,4,5-tetrahydro-1-benzoxepin
104.9 g (0.64 mole) of 2,3-dihydro-1-benzoxepin-5(4H)-one are dissolved at room temperature in 780 ml of glacial acetic acid and then, while stirring vigorously at 10° C., 113.9 g (0.64 mole) of N-bromosuccinimide are introduced in portions so that the temperature does not exceed 18°-20° C. (about 30 min). The reaction is complete after about 4 hours (TLC check) and the mixture is poured into 3 l of vigorously stirred ice-water and then stirred for 30 minutes. The solid produced which is initially oily crystallizes completely after some time. The solid is filtered off with suction and washed with about 5 l of water. It is dried over calcium chloride in vacuo and crystallized in cyclohexane.

reactant | 2,3-dihydro-1-benzoxepin-5(4H)-one | 0.64 mole, 104.9 g | O1CCCC(C2=C1C=CC=C2)=O | C10H10O2
reactant | N-bromosuccinimide | 0.64 mole, 113.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetic acid | 780 ml | C(C)(=O)O | C2H4O2
product | 7-Bromo-5-hydroxy-2,3,4,5-tetrahydro-1-benzoxepin | BrC=1C=CC2=C(C(CCCO2)O)C1 | C10H11BrO2
